US08604029B2
A solution of N-(4-nitro-phenyl)-oxalamic acid ethyl ester (4.9 g, 20.5 mmol), triethylamine (4.2 g, 41 mmol) and 2-amino-4,6-dimethylpyridine (2.5 g, 20.5 mmol) in dry toluene (30 mL) was heated at reflux overnight. The mixture was cooled to 0° C., and a precipitate was filtered and washed with water. Drying under vacuum afforded N-(4,6-dimethyl-pyridin-2-yl)-N′-(4-nitro-phenyl)-oxalamide (4.8 g, 74%).

reactant | N-(4-nitro-phenyl)-oxalamic acid ethyl ester | 20.5 mmol, 4.9 g | C(C)OC(C(=O)NC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H10N2O5
reactant | triethylamine | 41 mmol, 4.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-4,6-dimethylpyridine | 20.5 mmol, 2.5 g | NC1=NC(=CC(=C1)C)C | C7H10N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4,6-dimethyl-pyridin-2-yl)-N′-(4-nitro-phenyl)-oxalamide | 4.8 g, 74% | CC1=CC(=NC(=C1)C)NC(C(=O)NC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H14N4O4
